US08937083B2
Preparation of 1-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)imidazolidin-2-one (Compound 374)
To a solution of 1-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(2-chloroethyl)urea (0.1 g, 0.333 mmol) in THF (6.66 ml) was added sodium hydride (8.00 mg, 0.333 mmol) and the reaction mixture was stirred at ambient temperature for 30 minutes. The reaction was quenched by the addition of a solution of saturated ammonium chloride and the product was extracted with ethyl acetate (2×). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The product was a beige solid which was pure and did not need any further purification (63 mg, 72%): mp 167-170° C.; 1H NMR (400 MHz, CDCl3) δ 8.96 (d, J=2.2 Hz, 1H), 8.56 (dd, J=4.7, 1.4 Hz, 1H), 8.33 (s, 1H), 7.99 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.40 (ddd, J=8.3, 4.8, 0.7 Hz, 1H), 5.00 (s, 1H), 4.14-4.07 (m, 2H), 3.68-3.58 (m, 2H); ESIMS m/z 264 ([M+H]+).

reactant | 1-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(2-chloroethyl)urea | 0.333 mmol, 0.1 g | ClC1=NN(C=C1NC(=O)NCCCl)C=1C=NC=CC1 | C11H11Cl2N5O
reactant | sodium hydride | 0.333 mmol, 8.00 mg | [H-].[Na+]
solvent | THF | 6.66 ml | C1CCOC1 | C4H8O
product | 1-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)imidazolidin-2-one | ClC1=NN(C=C1N1C(NCC1)=O)C=1C=NC=CC1 | C11H10ClN5O
